US07238772B2
(V) Synthesis of (3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)-trioctylphosphonium 1,1,2,2-tetrafluoroethanesulfonate
Trioctyl phosphine (31 g) was partially dissolved in reagent-grade acetonitrile (250 ml) in a large round-bottomed flask and stirred vigorously. 1,1,1,2,2,3,3,4,4,5,5,6,6-Tridecafluoro-8-iodooctane (44.2 g) was added, and the mixture was heated under reflux at 110 degrees C. for 24 hours. The solvent was removed under vacuum giving (3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)-trioctylphosphonium iodide as a waxy solid (30.5 g). Potassium 1,1,2,2-tetrafluoroethanesulfonate (TFES-K, 13.9 g) was dissolved in reagent grade acetone (100 ml) in a separate round-bottomed flask, and to this was added (3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)-trioctylphosphonium iodide (60 g). The reaction mixture was heated at 60 degrees C. under reflux for approximately 16 hours. The reaction mixture was then filtered using a large frit glass funnel to remove the white Kl precipitate formed, and the filtrate was placed on a rotary evaporator for 4 hours to remove the acetone. The liquid was left for 24 hours at room temperature and then filtered a second time (to remove Kl) to yield the product (62 g) as shown by proton NMR.

reactant | Potassium 1,1,2,2-tetrafluoroethanesulfonate | 13.9 g | FC(C(F)F)(S(=O)(=O)[O-])F.[K+]
reactant | (3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)-trioctylphosphonium iodide | 60 g | [I-].FC(CC[P+](CCCCCCCC)(CCCCCCCC)CCCCCCCC)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)-trioctylphosphonium 1,1,2,2-tetrafluoroethanesulfonate | 62 g | FC(C(F)F)(S(=O)(=O)[O-])F.FC(CC[P+](CCCCCCCC)(CCCCCCCC)CCCCCCCC)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | InChI=1S/C32H55F13P.C2H2F4O3S/c1-4-7-10-13-16-19-23-46(24-20-17-14-11-8-5-2,25-21-18-15-12-9-6-3)26-22-27(33,34)28(35,36)29(37,38)30(39,40)31(41,42)32(43,44)45;3-1(4)2(5,6)10(7,8)9/h4-26H2,1-3H3;1H,(H,7,8,9)/q+1;/p-1
